US09315521B2
6-methyl-2-[(thiophen-3-ylmethyl)sulfanyl]pyrimidin-4-ol
A mixture of 3-(bromomethyl)thiophene (360 mg, 2.0 mmol), 6-methyl-2-sulfanylpyrimidin-4-ol (242 mg, 1.7 mmol), and triethylamine (280 μL, 2.0 mmol) in absolute ethanol (10 mL) was stirred at room temperature for 2 days. The solid residue was removed by filtration. The filtrate was recovered and evaporated under reduced pressure. The solid product was suspended in water (20 mL). The solid material was recovered by filtration, washed with water (2×15 mL) and hexanes (3×15 mL), and dried in vacuo, affording the title compound (80 mg, 20% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.21 (s, 3H), 4.39 (s, 2H), 6.02 (s (br), 1H), 7.12 (dd, 1H, J=1.3 Hz, 3.5 Hz), 7.47 (m, 2H); M+239; HPLC purity: 96.1%.

reactant | 3-(bromomethyl)thiophene | 2.0 mmol, 360 mg | BrCC1=CSC=C1 | C5H5BrS
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 1.7 mmol, 242 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | triethylamine | 2.0 mmol, 280 μL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 6-methyl-2-[(thiophen-3-ylmethyl)sulfanyl]pyrimidin-4-ol | 80 mg, 20% yield | CC1=CC(=NC(=N1)SCC1=CSC=C1)O | C10H10N2OS2
